US08686018B2
3-(difluoromethyl)-1-methyl-5-(3-(trifluoromethyl)phenoxy)-1H-pyrazole-4-carboxylic acid
The title compound was prepared using 5-chloro-3-(difluoromethyl)-1-methyl-4H-pyrazole-4-carbaldehyde and 3-trifluoromethylphenol in the manner similar to the method in Production Example 1 above except potassium carbonate was used instead of potassium hydroxide.

reactant | 5-chloro-3-(difluoromethyl)-1-methyl-4H-pyrazole-4-carbaldehyde | ClC1C(C(=NN1C)C(F)F)C=O | C6H7ClF2N2O
reactant | 3-trifluoromethylphenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-(difluoromethyl)-1-methyl-5-(3-(trifluoromethyl)phenoxy)-1H-pyrazole-4-carboxylic acid | FC(C1=NN(C(=C1C(=O)O)OC1=CC(=CC=C1)C(F)(F)F)C)F | C13H9F5N2O3
